US07838675B2
5-(azetidin-1-ylcarbonyl)-N-{2-[(2,3-difluorobenzyl)thio]-6-[(1R)-2-hydroxy-1-methylethoxy]pyrimidin-4-yl}furan-2-sulfonamide
To a solution of 5-(azetidin-1-ylcarbonyl)-N-{2-[(2,3-difluorobenzyl)thio]-6-[(1R)-1-methyl-2-(triphenylmethyloxy)ethoxy]pyrimidin-4-yl}furan-2-sulfonamide (the product of step iv) (0.24 g) in methanol (5 mL) was added para-toluenesulfonic acid hydrate (58 mg) and anisole (0.34 mL). After stirring at room temperature for 2 d, H2O (5 mL) was added and the mixture extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine (10 mL), dried (MgSO4), filtered and evaporated to dryness in vacuo. The resulting crude solid was purified by reverse phase HPLC (50% to 5% gradient of 0.1% aqueous ammonium acetate in acetonitrile as eluent) to give the title compound as a white solid. Yield: 10 mg.

reactant | 5-(azetidin-1-ylcarbonyl)-N-{2-[(2,3-difluorobenzyl)thio]-6-[(1R)-1-methyl-2-(triphenylmethyloxy)ethoxy]pyrimidin-4-yl}furan-2-sulfonamide | N1(CCC1)C(=O)C1=CC=C(O1)S(=O)(=O)NC1=NC(=NC(=C1)O[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)SCC1=C(C(=CC=C1)F)F | C41H36F2N4O6S2
reactant | para-toluenesulfonic acid hydrate | 58 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | anisole | 0.34 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | H2O | 5 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 5-(azetidin-1-ylcarbonyl)-N-{2-[(2,3-difluorobenzyl)thio]-6-[(1R)-2-hydroxy-1-methylethoxy]pyrimidin-4-yl}furan-2-sulfonamide | N1(CCC1)C(=O)C1=CC=C(O1)S(=O)(=O)NC1=NC(=NC(=C1)O[C@@H](CO)C)SCC1=C(C(=CC=C1)F)F | C22H22F2N4O6S2
